US04020076
A mixture of 35 g of the potassium salt of n-butyl N-carbethoxy-thiocarbamate, 500 ml of methanol and 7.7 ml of chloroacetonitrile was stirred for 5 hours and then 10.1 g of potassium methylate were added thereto. The reaction mixture was refluxed for 16 hours and was then evaporated to dryness. The residue was dissolved in water and the aqueous phase was washed with ether and then acidified. The acid aqueous phase was extracted with ether and the ether phase was evaporated to dryness to obtain 16 g of 2-n-butoxy-4-hydroxy-5-cyano-thiazole in the form of beige crystals melting at 80° C.

reactant | potassium | 35 g | [K] | K
reactant | n-butyl N-carbethoxy-thiocarbamate | C(=O)(OCC)NC(OCCCC)=S | C8H15NO3S
reactant | chloroacetonitrile | 7.7 ml | ClCC#N | C2H2ClN
reactant | potassium methylate | 10.1 g | C[O-].[K+]
solvent | methanol | 500 ml | CO | CH4O
product | 2-n-butoxy-4-hydroxy-5-cyano-thiazole | 16 g | C(CCC)OC=1SC(=C(N1)O)C#N | C8H10N2O2S
